US08097613B2
d) (4-Benzylsulfanyl-5-nitro-thiophen-3-yl)-methanol
Diisobutylaluminum hydride (154 mL of a 1.0 M solution in dichloromethane, 154 mmol) was added via cannula over 25 min to a solution of 4-benzylsulfanyl-5-nitro-thiophene-3-carboxylic acid ethyl ester (22.63 g, 70.0 mmol) at −50° C. The reaction mixture was stirred at −50° C. for 2 h, then was warmed to 0° C. and was maintained at that temperature for 35 min. Water (200 mL) was added via addition funnel over 15 min and the resulting suspension was warmed to 25° C. whereupon additional water (200 mL) and D/L-tartaric acid (20 g) were added. After stirring vigorously at 25° C. for 30 min, the reaction mixture was partitioned between 1.0 M aqueous hydrochloric acid solution (300 mL) and dichloromethane (2×400 mL). The combined organic layers were dried over sodium sulfate, filtered and were concentrated in vacuo. Purification of the residue by flash column chromatography (Merck silica gel 60, 40-63 μm; 10-50% ethyl acetate in hexanes) afforded the desired product, (4-benzylsulfanyl-5-nitro-thiophen-3-yl)-methanol (10.52 g, 37.4 mmol, 53%), as a dark brown oil. 1H NMR (400 MHz, CDCl3) δ: 4.21 (2H, s), 4.40 (2H, s), 7.09-7.12 (1H, m), 7.21-7.24 (4H, m), 7.39 (1H, s).

reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-benzylsulfanyl-5-nitro-thiophene-3-carboxylic acid ethyl ester | 70.0 mmol, 22.63 g | C(C)OC(=O)C1=CSC(=C1SCC1=CC=CC=C1)[N+](=O)[O-] | C14H13NO4S2
reactant | Water | 200 mL | O | H2O
reactant | water | 200 mL | O | H2O
reactant | L-tartaric acid | 20 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-benzylsulfanyl-5-nitro-thiophen-3-yl)-methanol | 37.4 mmol, 10.52 g, 53% | C(C1=CC=CC=C1)SC=1C(=CSC1[N+](=O)[O-])CO | C12H11NO3S2
